US04016209
3-[N'-(3-Chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium bromide Hydrobromide
To a stirred solution of 3.02 g. (14.3 mmoles) of N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide in 30 ml. of acetonitrile is added a solution of 2.25 g. (14.3 mmoles) of 3-bromo-1-chloropropane and the mixture is stirred at room temperature under nitrogen for 3.5 hours. The mixture is cooled in an ice-water bath and then the insoluble material is removed by filtration. The filtrate is evaporated and dried in vacuo and is extracted with chloroform. The chloroform extract is evaporated and dried to give 2.05 g. (100%) of oily product; NMR δ: 2.2 (3H, S, --NCH3); 3.43 (9H, S, --+N(CH3)3).

reactant | N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide | 14.3 mmoles | [Br-].C[N+](CCCNC)(C)C
reactant | 3-bromo-1-chloropropane | 14.3 mmoles | BrCCCCl | C3H6BrCl
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[N'-(3-Chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium bromide Hydrobromide | Br.[Br-].ClCCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H24ClN2.2BrH/c1-12(8-5-7-11)9-6-10-13(2,3)4;;/h5-10H2,1-4H3;2*1H/q+1;;/p-1
